Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Abdominal pain, fatigue, tenesmus, blood in stool
 
Major Surgical or Invasive Procedure:
flex sig 

 
History of Present Illness:
Patient is a ___ y/o male with UC diagnosed in ___, 
recently started his care with Dr ___ here at ___ in ___, 
who has started him on humira and mercaptopurine.  For at least 
the past few weeks, has had increasing frequency of bowel 
movements, up to every hour, including at night, with 
approximately ever other one with blood.  + fatigue, + shortness 
of breath, felt "foggy", + abdominal pain which is relieved by 
moving bowels.  Fevers for the past week.  At last office visit, 
Dr ___ prednisone as well as Bactrim.   Given worsening 
symptoms, he presented to ED where he was found to be 
tachycardic, CT scan showed severe colitis, and he was found to 
be C diff positive.  He was given two units of prbcs for hct of 
17 that was found after he received IV fluids.  He feels better 
since the blood transfusion.  Some weeks back, he had some 
"aches" in his fingers and toes, now resolved.   Has lost 35 lbs 
since his diagnosis with UC.  

 
Past Medical History:
1.  Ulcerative colitis
 
Social History:
___
Family History:
UC in mother's cousin
___ brother ___

 
Physical Exam:
Discharge Exam 1130A

EXAM -- 
Time patient seen and examined today: 915A
VITALS: Vital Signs Reviewed (see eFlowsheet)
GENERAL: Alert, NAD
EYES: Anicteric, PERRL
ENT: Ears, nose normal
Neck: Supple
CV: heart RRR, pulses distally intact.  No ___ edema. 
RESP: Lungs CTAB.
GI: Abdomen soft, N/D, N/T. BS+
GU: No suprapubic tenderness
MSK: MAEW, strength intact and appropriate for age.
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, conversant, obeys commands
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
___ 05:08PM BLOOD WBC-10.9* RBC-2.61* Hgb-6.6* Hct-21.0* 
MCV-81* MCH-25.3* MCHC-31.4* RDW-18.0* RDWSD-52.3* Plt ___
___ 09:56PM BLOOD WBC-12.0* RBC-2.19* Hgb-5.6* Hct-17.7* 
MCV-81* MCH-25.6* MCHC-31.6* RDW-17.8* RDWSD-51.9* Plt ___
___ 05:05PM BLOOD WBC-11.0* RBC-2.88* Hgb-7.7* Hct-23.7* 
MCV-82 MCH-26.7 MCHC-32.5 RDW-17.2* RDWSD-50.2* Plt ___
___ 05:08PM BLOOD Glucose-129* UreaN-13 Creat-0.7 Na-135 
K-4.5 Cl-91* HCO3-29 AnGap-15
___ 05:08PM BLOOD ALT-13 AST-11 AlkPhos-54 TotBili-0.2
___ 05:08PM BLOOD Albumin-3.3*
___ 05:08PM BLOOD VitB12-580
___ 05:08PM BLOOD CRP-186.9*

Ct Scan
1. Extensive mural edema, mucosal hyperemia and pericolonic 
engorgement of 
vessels affecting almost the entire colon the rectum sparing the 
cecum, most consistent with acute ulcerative colitis flare, in 
this patient with known ulcerative colitis.  No perforation or 
pericolonic abscess. 
2. No drainable fluid collection. 

C diff assay
 C. difficile DNA amplification assay (Final ___: 
      Reported to and read back by ___ OF ED @ 
___ ON
      ___. 
      CLOSTRIDIUM DIFFICILE. 
         Positive for toxigenic C difficile by the Cepheid 
nucleic
         amplification assay.            (Reference 
Range-Negative). 

Fecal culture, campylobacter pending
Blood and urine culture negative thus far

MRI: IMPRESSION: 
1. Single intersphincteric fistula tract located at the anal 
verge in the left anterolateral position exiting at the left 
gluteal cleft.  No associated abscess. 
2. Severe proctocolitis with reactive lymphadenopathy and small 
volume free fluid. 

Impression: Fistula in the anal verge
Abnormal mucosa in the colon (biopsy)
Otherwise normal sigmoidoscopy to 20cm 

Recommendations: - Await pathology and CMV stain
- Given severity of colitis with pseudomembranes and persistent 
fevers on steroids, recommend increased PO Vanc to 250mg QID and 
starting IV Flagyl
- Would recommend MR pelvis to evaluate fistulous tract
- MRE to rule out small bowel involvement if able to tolerate
- continue to monitor H/H 

MRE ___
 
  
MR ENTEROGRAPHY: 
  
There is no evidence of small bowel obstruction.  Small bowel 
loops are not 
thickened, edematous, or abnormally enhancing.  There is no 
intra-abdominal 
fluid collection.  There is no evidence of fistulization.  
Although not 
optimized for evaluation there is wall thickening and edema 
involving the 
descending, descending colon, and visualized rectum.  
Surrounding pericolonic 
vasculature in this location is engorged.  Known perianal 
fistulous tract is 
not included in the field of view. 

 
Brief Hospital Course:
 ___ y/o male with UC diagnosed in ___, admitted with 
increased frequency of bowel movements, bloody diarrhea, 
tenesmus, fevers, fatigue. He was found to have diffuse colonic 
inflammation on his CT scan and flex sig, c.diff and have anemia 
requiring transfusion. 
 
#severe C diff colitis, severe disease given underlying IBD: No 
evidence of megacolon or perforation on imaging. Given flex sig 
results, increased vanco to 500mg QID (per pharmacy) vancomycin 
and add IV flagyl. Symptoms improved. Downtitrated to 125 QID 
per GI upon discharge.  2 weeks from discharge date and then to 
continue on daily PO vanc after that which can be started by GI 
as patient is to have GI f/u in 2 weeks.

##Ulcerative colitis flare - likely due to C.diff and IBD, also
awaiting CMV pathology. Azathioprine on hold per GI. Continue
home dose prednisone 20mg for now. Remicade 10mg/mg x 1 given
___. F/u with Dr ___ in 2 weeks.
-lactose free diet. s/p MRI of the pelvis. 
-MRE done and reviewed, no signs of fistula or crohns.
-- CRS consulted this  AM to review surgical options
  
#acute blood bloos Anemia: Due to #hematochezia. Transfused 3
units prbc and will trend closely. Transfuse for hct less than
21. Last transfusion ___ - hb 9 on DC. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. AzaTHIOprine 50 mg PO DAILY 
2. PredniSONE 40 mg PO DAILY 
3. Sulfameth/Trimethoprim DS 1 TAB PO DAILY 

 
Discharge Medications:
1.  Vancomycin Oral Liquid ___ mg PO Q6H 
RX *vancomycin 125 mg/2.5 mL 1 syringe(s) by mouth four times a 
day Disp #*56 Syringe Refills:*0
RX *vancomycin 125 mg/2.5 mL 1 syringe(s) by mouth daily Disp 
#*30 Syringe Refills:*0 
2.  Vancomycin Oral Liquid ___ mg PO DAILY prophylaxis cdiff 
AFTER ___omplete  
3.  PredniSONE 20 mg PO DAILY 
RX *prednisone [Deltasone] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Sulfameth/Trimethoprim DS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
c.diff colitis
ulcerative colitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for evaluation of bloody diarrhea. You were 
found to have severe colitis due to a "c.diff" infection and 
ulcerative colitis flare. You were started on antibiotic 
medication....and given a dose of remicade on ___
 
Followup Instructions:
___